US08242111B2
N-tert-butyl-2-((S)-3-((S)-6-(2-hydroxy-2-methylpropyl)-2-oxo-6-phenyl-1,3-oxazinan-3-yl)piperidin-1-yl)thiazole-5-carboxamide
The title compound was prepared from (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-piperidin-3-yl)-1,3-oxazinan-2-one and 2-bromo-N-tert-butylthiazole-5-carboxamide following a procedure analogous to that described in Example 13. LC-MS Method 2 tR=1.23 min, m/z=515.

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-piperidin-3-yl)-1,3-oxazinan-2-one | OC(C[C@@]1(CCN(C(O1)=O)[C@@H]1CNCCC1)C1=CC=CC=C1)(C)C | C19H28N2O3
reactant | 2-bromo-N-tert-butylthiazole-5-carboxamide | BrC=1SC(=CN1)C(=O)NC(C)(C)C | C8H11BrN2OS
product | N-tert-butyl-2-((S)-3-((S)-6-(2-hydroxy-2-methylpropyl)-2-oxo-6-phenyl-1,3-oxazinan-3-yl)piperidin-1-yl)thiazole-5-carboxamide | C(C)(C)(C)NC(=O)C1=CN=C(S1)N1C[C@H](CCC1)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C27H38N4O4S
